US06645953B2
A mixture of 16β-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol (6.7 g, 12 mmol) and 1-methylpiperidone (25 mL) in toluene (500 mL) was heated to reflux temperature and 50 ml toluene was distilled off. Aluminium triisopropyl oxide (9.8 g, 48 mmol) in toluene (50 mL) was then added dropwise and the whole heated at refux for 4 hours. After cooling, water (200 mL) was added and the aqueous layer separated and extracted with diethyl ether. The combined organic layers were washed with water (100 mL), dried over magnesium sulphate and concentrated to give residue which was purified by recrystallization from methanol to give 16β-(tert-butyldimethylsilyloxy)cholest-4-en-3-one (5.4 g).

reactant | 16β-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol | 12 mmol, 6.7 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H]([C@@H](CCCC(C)C)C)[C@]2(CC[C@@H]3[C@]4(CC[C@@H](CC4=CC[C@H]3[C@@H]2C1)O)C)C | C33H60O2Si
reactant | 1-methylpiperidone | 25 mL | CN1C(CCCC1)=O | C6H11NO
reactant | water | 200 mL | O | H2O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 16β-(tert-butyldimethylsilyloxy)cholest-4-en-3-one | 5.4 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H]([C@@H](CCCC(C)C)C)[C@]2(CC[C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)C | C33H58O2Si
